US05635104
All glassware is dried thoroughly, and the reaction is kept under an inert atmosphere (argon) at all times. With stirring, 2.33 g (20.6 mmol) of caprolactam (Aldrich) and 2.30 g (22.7 mmol) of triethylamine (Aldrich, d=0.726 g/mol) are added to 100 mL toluene (Aldrich) in a 3-neck round bottom flask equipped with a reflux condenser, addition funnel, and mechanical stirrer, to give a clear, pale yellow solution. Addition of a solution of 4.75 g (20.6 mmol) of 3,5-dinitrobenzoyl chloride (Aldrich) in 100 mL toluene proceeds dropwise over a period of 30 min. The resulting reaction mixture is heated to reflux and stirred for 16 h. Upon cooling to room temperature, the reaction is filtered to remove the triethylamine hydrochloride, and poured into a separatory funnel. After dilution with 300 mL of chloroform, the organic solution is extracted with 5% aq HCl, 5% aq NaOH, and finally D.I. water. The organic layer is dried over Na2SO4, filtered, and the solvent removed by evaporation under reduced pressure. Recrystallization of the crude product from toluene followed by drying under vacuum yields N-(3,5-dinitrobenzoyl)caprolactam as a light yellow, crystalline solid.

reactant | caprolactam | 20.6 mmol, 2.33 g | C1(CCCCCN1)=O | C6H11NO
reactant | triethylamine | 22.7 mmol, 2.30 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dinitrobenzoyl chloride | 20.6 mmol, 4.75 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dinitrobenzoyl)caprolactam | [N+](=O)([O-])C=1C=C(C(=O)N2C(CCCCC2)=O)C=C(C1)[N+](=O)[O-] | C13H13N3O6
